US05753595
Step G Synthesis of 3-(2-methyl-4-chloro-6-fluorobenzoxazol-7-yl)-1-methyl-6-trifluoromethyl-2,4-(1H,3H)pyrimidinedione (Compound 6)
Under a nitrogen atmosphere a stirred solution of 4.0 grams (28 mmole) of phosphorus pentoxide and 10 mL (47 mmole) of hexamethyldisiloxane was heated at 90° C. for 30 minutes. To this was added dropwise during a 5.0 minute period a solution of 0.80 gram (2.2 mmole) of 3-(5-azido-4-chloro-2-fluorophenyl)-1-methyl-6-trifluoromethyl-2,4-(1H,3H)pyrimidinedione in 5.0 mL of acetic acid. Upon completion of the addition the reaction mixture was heated at reflux for 5.0 hours, cooled to ambient temperature, and poured into 50 mL of water. The reaction mixture was extracted with three 25 mL portions of ethyl acetate. The combined extracts were washed with 50 mL of aqueous saturated sodium bicarbonate solution and 50 mL of aqueous saturated sodium chloride solution. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding 0.7 gram of a residual oil, which was subjected to column chromatography on silica gel. Elution was accomplished with 3:1 heptane:ethyl acetate. The product-containing fractions were combined and concentrated under reduced pressure, yielding 0.40 gram of an oily white solid, 3-(2-methyl-4-chloro-6-fluorobenzoxazol-7-yl)-1-methyl-6-trifluoromethyl-2,4-(1H,3H)pyrimidinedione, m.p. 64°-66° C. The NMR spectrum was consistent with the proposed structure.

reactant | phosphorus pentoxide | 28 mmole, 4.0 grams | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | hexamethyldisiloxane | 47 mmole, 10 mL | C[Si](O[Si](C)(C)C)(C)C | C6H18OSi2
reactant | 3-(5-azido-4-chloro-2-fluorophenyl)-1-methyl-6-trifluoromethyl-2,4-(1H,3H)pyrimidinedione | 2.2 mmole, 0.80 gram | N(=[N+]=[N-])C=1C(=CC(=C(C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl | C12H6ClF4N5O2
reactant | water | 50 mL | O | H2O
reactant | acetic acid | 5.0 mL | C(C)(=O)O | C2H4O2
product | 3-(2-methyl-4-chloro-6-fluorobenzoxazol-7-yl)-1-methyl-6-trifluoromethyl-2,4-(1H,3H)pyrimidinedione | 0.7 gram | CC=1OC2=C(N1)C(=CC(=C2N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F)Cl | C14H8ClF4N3O3
